US08138197B2
1-Cyclopropyl-1H-pyrrole-2-carbaldehyde
In a 500-ml egg plant-type flask, POCl3 (44.46 mL, 0.48 mol) was dropwise added to a DMF (37 mL, 0.48 mol) solution of 1-cyclopropyl-1H-pyrrole (46.46 g, 0.43 mol) with cooling with ice, and then stirred overnight at room temperature. The reaction mixture was poured into 5 N sodium hydroxide solution (336 mL) with cooling with ice, and the reaction solution was made basic with 5 N sodium hydroxide solution added thereto. The mixture solution was extracted with dichloromethane, dried with sodium sulfate, filtered, concentrated, and purified through silica gel column chromatography (Biotage [SiO2, 75+M]) with a hexane/ethyl acetate developer system to obtain the title compound as a colorless oil.

reactant | POCl3 | 0.48 mol, 44.46 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.48 mol, 37 mL | CN(C)C=O | C3H7NO
reactant | 1-cyclopropyl-1H-pyrrole | 0.43 mol, 46.46 g | C1(CC1)N1C=CC=C1 | C7H9N
reactant | sodium hydroxide | 5 N, 336 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
product | 1-Cyclopropyl-1H-pyrrole-2-carbaldehyde | C1(CC1)N1C(=CC=C1)C=O | C8H9NO
